US07482341B2
4-Fluoro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-3-trifluoromethyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine (0.07 g) and 4-fluoro-3-(trifluoromethyl)-benzenesulfonyl chloride (0.087 g) as alight yellow gum (0.11 g). MS (ESI−): 457.2 ([M−H]−).

reactant | 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine | 0.07 g | FC1=CC=C(COCC2=CC=CC(=N2)N)C=C1 | C13H13FN2O
reactant | 4-fluoro-3-(trifluoromethyl)-benzenesulfonyl chloride | 0.087 g | FC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3ClF4O2S
product | 4-Fluoro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-3-trifluoromethyl-benzenesulfonamide | FC1=C(C=C(C=C1)S(=O)(=O)NC1=NC(=CC=C1)COCC1=CC=C(C=C1)F)C(F)(F)F | C20H15F5N2O3S
